US06624154B1
Methyl 4-(p-tolyl)-butyrate
A solution of 4-(p-tolyl)-butyric acid (10.0 g, 56.11 mmol) in methanol (680 mL) was treated with concentrated sulfuric acid (5.4 mL). The reaction was stirred at room temperature for 18 hour. Sodium bicarbonate (≈15 g) was added and the mixture was stirred for 15 minutes, then concentrated. The residue was dissolved in ethyl acetate/water. The organic phase was separated and washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to give the title material (10.8 g, 100% crude) as an oil which was used for the next reaction.

reactant | 4-(p-tolyl)-butyric acid | 56.11 mmol, 10.0 g | C1(=CC=C(C=C1)CCCC(=O)O)C | C11H14O2
reactant | sulfuric acid | 5.4 mL | S(O)(O)(=O)=O | H2O4S
reactant | Sodium bicarbonate | ≈15 g | C([O-])(O)=O.[Na+]
solvent | methanol | 680 mL | CO | CH4O
product | Methyl 4-(p-tolyl)-butyrate | 10.8 g, 100% | C1(=CC=C(C=C1)CCCC(=O)OC)C | C12H16O2
